US09210927B2
Preparation of 1-(4-(1H-1,2,4-triazol-1-yl)phenyl)ethanone (DI74)
To a stirred solution of 4-bromoacetophenone (10 g, 50 mmol) in DMF (100 mL), were added 1,2,4-triazole (5 g, 75 mmol), Cs2CO3 (32.6 g, 100.5 mmol) and CuI (1.4 g, 10.1 mmol) and the resultant reaction mixture was refluxed for 48 h. After completion of the reaction (by TLC), the reaction mixture was cooled to ambient temperature and diluted with water (200 mL) and extracted with EtOAc. The combined organic layer was washed with brine and dried over Na2SO4 and concentrated under reduced pressure. Purification by washing with diethyl ether afforded the title compound as a solid (5 g, 96%): 1H NMR (400 MHz, CDCl3) δ 8.71 (s, 1H), 8.16, (s, 1H), 8.13 (d, J=8.6 Hz, 2H), 7.83 (d, J=8.6 Hz, 2H), 2.66 (s, 3H); ESIMS m/z 186.02 ([M−H]−).

reactant | 4-bromoacetophenone | 50 mmol, 10 g | CC(=O)C1=CC=C(C=C1)Br | C8H7BrO
reactant | 1,2,4-triazole | 75 mmol, 5 g | N1N=CN=C1 | C2H3N3
reactant | Cs2CO3 | 100.5 mmol, 32.6 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | 200 mL | O | H2O
catalyst | CuI | 10.1 mmol, 1.4 g | [Cu]I
product | 1-(4-(1H-1,2,4-triazol-1-yl)phenyl)ethanone | 5 g, 96% | N1(N=CN=C1)C1=CC=C(C=C1)C(C)=O | C10H9N3O
